US09303007B2
To a solution of a TFA salt of tert-butyl (2S)-2-(5-(6-(2-((2S)-1-(N-(methoxycarbonyl)-L-valyl)-2-pyrrolidinyl)-1H-benzimidazol-5-yl)-2-naphthyl)-1H-benzimidazol-2-yl)-1-pyrrolidinecarboxylate (445 mg) in DCM (10 mL) at room temp was added TFA (1 mL, 13 mmol). The mixture was stirred at rt for 3 h, concentrated, and the residue was diluted in MeOH, loaded onto a Strata XC MCX cartridge and washed with methanol. The compound was release from the cartridge by eluting with a solution of 2M ammonia in methanol and then evaporated under reduced pressure to give methyl ((1S)-2-methyl-1-(((2S)-2-(5-(6-(2-((2S)-2-pyrrolidinyl)-1H-benzimidazol-5-yl)-2-naphthyl)-1H-benzimidazol-2-yl)-1-pyrrolidinyl)carbonyl)propyl)carbamate (275 mg) as orange solid LC-MS retention time 1.120 min; m/z 656.27 [M+H]+. LC data was recorded on a Shimadzu LC-10AS liquid chromatograph equipped with a Waters Sunfire 5u C18 4.6×50 mm column using a SPD-10AV UV-Vis detector at a detector wave length of 220 nM. The elution conditions employed a flow rate of 4 mL/min, a gradient of 100% Solvent A/0% Solvent B to 0% Solvent A/100% Solvent B, a gradient time of 3 min, a hold time of 1 min and an analysis time of 4 min where Solvent A was 10% acetonitrile/90% water/0.1% TFA and Solvent B was 90% acetonitrile/10% water/0.1% TFA. MS data was determined using a MICROMASS® Platform for LC in electrospray mode. 1H NMR (500 MHz, MeOD) δ ppm 8.26 (br s, 1H), 8.22 (br s, 1H), 8.08-8.16 (m, 3H), 8.04-8.08 (m, 1H), 8.03 (s, 1H), 7.86-7.96 (m, 3H), 7.73-7.82 (m, 2H), 5.88-5.93 (m, 0.1H), 5.37-5.44 (m, 0.9H), 5.07-5.15 (m, 1H), 4.28-4.33 (m, 1H), 4.12-4.19 (m, 0.8H), 4.06-4.10 (m, 0.2H), 3.94-4.02 (m, 1H), 3.59-3.75 (m, 4H), 3.50-3.59 (m, 1H), 2.63-2.74 (m, 2H), 2.41-2.47 (m, 1H), 2.23-2.40 (m, 5H), 2.06-2.16 (m, 1H), 1.00-1.04 (m, 0.4H), 0.94-1.00 (m, 3H), 0.88-0.93 (m, 2.6H).

reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | tert-butyl (2S)-2-(5-(6-(2-((2S)-1-(N-(methoxycarbonyl)-L-valyl)-2-pyrrolidinyl)-1H-benzimidazol-5-yl)-2-naphthyl)-1H-benzimidazol-2-yl)-1-pyrrolidinecarboxylate | 445 mg | COC(=O)N[C@@H](C(C)C)C(=O)N1[C@@H](CCC1)C1=NC2=C(N1)C=CC(=C2)C=2C=C1C=CC(=CC1=CC2)C2=CC1=C(NC(=N1)[C@H]1N(CCC1)C(=O)OC(C)(C)C)C=C2 | C44H49N7O5
reactant | TFA | 13 mmol, 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | methyl ((1S)-2-methyl-1-(((2S)-2-(5-(6-(2-((2S)-2-pyrrolidinyl)-1H-benzimidazol-5-yl)-2-naphthyl)-1H-benzimidazol-2-yl)-1-pyrrolidinyl)carbonyl)propyl)carbamate | 275 mg | CC([C@@H](C(=O)N1[C@@H](CCC1)C1=NC2=C(N1)C=CC(=C2)C2=CC1=CC=C(C=C1C=C2)C2=CC1=C(NC(=N1)[C@H]1NCCC1)C=C2)NC(OC)=O)C | C39H41N7O3
